US04748087
Dimethylsilicon di(ethoxyacrylate)
Dimethylsilylchloride (6.1 g; 0.047M) was added slowly to an ice cooled mixture of 2-hydroxyethyl acrylate (11 g; 0.0974M), triethylamine (9.6 g; 0.0947M) and dry diethyl ether (100 ml). The mixture was then refluxed for 2 hours and cooled. The triethylamine hydrochloride precipitate was filtered off and the solvent removed from the filtrate to give 6.6 g (81% of theory) of the product. An attempt to purify the product by distillation was unsuccessful because the product polymerized on heating. Infrared and NMR spectral analysis of the product confirmed it as the title compound and the results are summarised in Table S2 below.

reactant | Dimethylsilylchloride | 0.047M, 6.1 g | C[SiH](C)Cl | C2H7ClSi
reactant | 2-hydroxyethyl acrylate | 0.0974M, 11 g | C(C=C)(=O)OCCO | C5H8O3
reactant | triethylamine | 0.0947M, 9.6 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Dimethylsilicon di(ethoxyacrylate) | C(C)OC(C(=O)[O-])=C.C(C)OC(C(=O)[O-])=C.C[Si+2]C | InChI=1S/2C5H8O3.C2H6Si/c2*1-3-8-4(2)5(6)7;1-3-2/h2*2-3H2,1H3,(H,6,7);1-2H3/q;;+2/p-2
